US06302537B1
Preparation of Resin Particle (LA-1)
A mixed solution of 10 g of Resin for Dispersion Stabilization (P-1) shown below and 280 g of Isopar G was heated to temperature of 70° C. with stirring under a nitrogen gas stream. To the solution was dropwise added a mixture of 30 g of methyl methacrylate, 61 g of methyl acrylate, 9 g of 2-(N,N-dimethylamino)ethyl methacrylate and 1.5 g of 2,2′-azobis(isovaleronitrile) (abbreviated as AIVN) over a period of one hour, followed by stirring for 2 hours. Then, 1.0 g of AIVN was added to the reaction mixture and the mixture was heated to temperature of 75° C., followed by stirring for 3 hours. Then, 0.8 g of 2,2′-azc)bis(isobutyronitrile) (abbreviated as AIBN) was added to the mixture and the mixture was heated to temperature of 80° C., followed by stirring for 3 hours. The temperature of the reaction mixture was raised to 100° C., followed by stirring under a reduced pressure of 200 mmHg for 2 hours, thereby distilling off the unreacted monomers. After cooling the reaction mixture, it was passed through a nylon cloth of 200 mesh. The resulting white dispersion was a latex having a polymerization rate of 99% and an average particle size of 0.35 μm. The particle size was measured by CAPA-500 manufactured by Horiba Ltd. (hereinafter the same).

reactant | Isopar G | 280 g | CCCCCCCCC(C)C | C11H24
reactant | methyl methacrylate | 30 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | methyl acrylate | 61 g | C(C=C)(=O)OC | C4H6O2
reactant | 2-(N,N-dimethylamino)ethyl methacrylate | 9 g | C(C(=C)C)(=O)OCCN(C)C | C8H15NO2
reactant | 2,2′-azobis(isovaleronitrile) | 1.5 g | N(=NC(C#N)C(C)C)C(C#N)C(C)C | C10H16N4
reactant | AIVN | 1.0 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | LA-1 | CC(=O)/C=C/C=C=C/C=C/C(=O)O | C10H10O3
